US04929269
(iv) 5-t-butyl-2-methoxy-3-(chloroacetamido) phenyl N-t-butylsulfonamide
A solution of chloroacetyl chloride (4.4 ml) in dichloromethane (40 ml) was added dropwise to a cooled and stirred solution of 5-t-butyl-2-methoxy-3-aminophenyl N-t-butyl-sulfonamide (15.6 g) and diisopropylethylamine (9.5 ml) in dichloromethane (100 ml). The solution was left standing at ambient temperature for 2 hours and then washed with a 2% solution of citric acid. The organic phase was dried and evaporated. Recrytallization from aqueous ethanol gave the title compound (16.4 g).

reactant | chloroacetyl chloride | 4.4 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 5-t-butyl-2-methoxy-3-aminophenyl N-t-butyl-sulfonamide | 15.6 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)NC(C)(C)C)OC)N | C15H26N2O3S
reactant | diisopropylethylamine | 9.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-t-butyl-2-methoxy-3-(chloroacetamido) phenyl N-t-butylsulfonamide | 16.4 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)NC(C)(C)C)OC)NC(CCl)=O | C17H27ClN2O4S
